US06620826B2
m) Ethyl Hydrogen 2-(4,5-Methylenedioxy-1-methoxybenyl)-malonate
To a solution of the diethyl 2-(4,5-methylenedioxy-1-methoxybenyl)-malonate (20.0 g, 0.066 mol) of in ethanol (50 ml) was added a solution of potassium hydroxide (3.5 g, 0.066 mol) in water (25 ml). The solution stirred at reflux for 6 h. After concentrating the aqueous layer was washed with ether and acidified with concentrated HCl to pH 1 and extracted with ethyl acetate. The organic extracts were dried (Na2SO4) and concentrated to afford the title compound as a yellow solid (17.3 g, 89%).

reactant | diethyl 2-(4,5-methylenedioxy-1-methoxybenyl)-malonate | 0.066 mol, 20.0 g | C1OC2=CCC(CC(C(=O)OCC)C(=O)OCC)(C=C2O1)OC | C16H22O7
reactant | potassium hydroxide | 0.066 mol, 3.5 g | [OH-].[K+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 25 ml | O | H2O
product | Ethyl Hydrogen 2-(4,5-Methylenedioxy-1-methoxybenyl)-malonate | 17.3 g, 89% | C1OC2=CCC(CC(C(=O)OCC)C(=O)O)(C=C2O1)OC | C14H18O7
